US09388161B2
Step 3. 3-{4-[(2S)-1-cyclopropanecarbonyl-2-methyl-5-phenoxy-1,2,3,4-tetrahydroquinolin-6-yl]-1H-pyrazol-1-yl}-1λ6-thiane-1,1-dione
A 100-mL, round-bottom flask was charged with (S)-cyclopropyl(2-methyl-5-phenoxy-6-(1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone (0.200 g, 0.56 mmol), cesium carbonate (0.114 g, 0.35 mmol), N,N-dimethylformamide (5 mL), and 4-bromo-1λ6-thiane-1,1-dione (0.114 g, 0.53 mmol). The resulting mixture stirred at 100° C. for 4 h and was then cooled to room temperature. The reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (3×10 mL). The organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was purified via column chromatography on silica gel (gradient elution with 25-50% ethyl acetate/petroleum). The product was further purified by preparative-HPLC with the following conditions (Waters I): Column, SunFire Prep C18, 5 um, 19×100 mm; mobile phase, Water and acetonitrile (55% to 75% acetonitrile in 7 min, flow rate: 20 mL/min); Detector, UV 220&254 nm. This afforded 3-{4-[(2S)-1-cyclopropanecarbonyl-2-methyl-5-phenoxy-1,2,3,4-tetrahydroquinolin-6-yl]-1H-pyrazol-1-yl}-1λ6-thiane-1,1-dione (0.122 g, 43%) as a white solid. 1H NMR (400 MHz, CD3OD) δ ppm 0.76-0.82 (m, 1H), 0.92-1.02 (m, 2H), 1.13-1.22 (m, 4H), 1.42-1.50 (m, 1H), 1.95-2.08 (m, 3H), 2.08-2.13 (m, 1H), 2.14-2.37 (m, 3H), 2.68-2.77 (m, 1H), 3.11-3.19 (m, 2H), 3.37 (s, 1H), 3.53-3.60 (m, 1H), 4.66-4.72 (m, 1H), 4.74-4.81 (m, 1H), 6.79 (d, J=8.00 Hz, 2H), 6.98 (t, J=7.60 Hz, 1H), 7.23 (t, J=7.60 Hz, 2H), 7.62 (d, J=8.40 Hz, 1H), 7.83 (s, 1H), 8.05 (s, 1H). MS (ESI, pos. ion) m/z 506 [M+H]+.

reactant | (S)-cyclopropyl(2-methyl-5-phenoxy-6-(1H-pyrazol-4-yl)-3,4-dihydroquinolin-1(2H)-yl)methanone | 0.56 mmol, 0.200 g | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NNC1)OC1=CC=CC=C1)C | C23H23N3O2
reactant | cesium carbonate | 0.35 mmol, 0.114 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | 4-bromo-1λ6-thiane-1,1-dione | 0.53 mmol, 0.114 g | BrC1CCS(CC1)(=O)=O | C5H9BrO2S
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-{4-[(2S)-1-cyclopropanecarbonyl-2-methyl-5-phenoxy-1,2,3,4-tetrahydroquinolin-6-yl]-1H-pyrazol-1-yl}-1λ6-thiane-1,1-dione | C1(CC1)C(=O)N1[C@H](CCC2=C(C(=CC=C12)C=1C=NN(C1)C1CS(CCC1)(=O)=O)OC1=CC=CC=C1)C | C28H31N3O4S
